US09168259B2
To a solution of 4.0 g (22.5 mmol) 2,6-dichloro-4-methoxy-pyridine in THF (20 ml) was added 10.0 ml (2.47 M in hexane, 24.7 mmol) n-butyllithium at −78° C. After stirring for 1 h at −78° C. excess dry ice was added and the mixture was allowed to warm to RT. Then the mixture was acidified with 6N aqueous hydrochlorid acid to pH 3-4 followed by extraction with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 4:1) provided 3.5 g (15.8 mmol, 70%) 2,6-dichloro-4-methoxy-pyridine-3-carboxylic acid.

reactant | 2,6-dichloro-4-methoxy-pyridine | 22.5 mmol, 4.0 g | ClC1=NC(=CC(=C1)OC)Cl | C6H5Cl2NO
reactant | n-butyllithium | 24.7 mmol, 2.47 M, 10.0 ml | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochlorid | 6N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2,6-dichloro-4-methoxy-pyridine-3-carboxylic acid | 15.8 mmol, 3.5 g, 70% | ClC1=NC(=CC(=C1C(=O)O)OC)Cl | C7H5Cl2NO3
